US07351706B2
a) 2-[6-Chloro-3-(2,2,2-trifluoro-acetyl)-indol-1-yl]-N-methyl-acetamide
To a stirred solution of 1-(6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone (described previously in U.S. 2004067939) in DMF were added 2.1 eq. NaH (60% in oil). The mixture was stirred at RT for 30 min. and then the (commercially available) 2-chloro-N-methyl-acetamide (1.1 eq.) was added. The mixture was stirred an additional 14 hours at 60° C. and then poured onto water and extracted with ethyl acetate. The combined organic phases were dried over Na2SO4 and concentrated in vacuo. Purification by preparative HPLC gave the title compound.

reactant | 1-(6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | ClC1=CC=C2C(=CNC2=C1)C(C(F)(F)F)=O | C10H5ClF3NO
reactant | NaH | [H-].[Na+]
reactant | 2-chloro-N-methyl-acetamide | 1.1 eq. | ClCC(=O)NC | C3H6ClNO
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[6-Chloro-3-(2,2,2-trifluoro-acetyl)-indol-1-yl]-N-methyl-acetamide | ClC1=CC=C2C(=CN(C2=C1)CC(=O)NC)C(C(F)(F)F)=O | C13H10ClF3N2O2
